US08053456B2
A flask was charged with [5-(5-Isopropyl-2,4-dibenzyloxy-phenyl)-4-(1-methyl-1H-indol-5-yl)-4H-[1,2,4]triazol-3-yl]-phenyl-amine (0.25 mmol, 136 mg.), dimethylformamide (2 mL), and acetylimidazole (2 eq., 90 mg.), and the reaction was heated at 75° C. for 16 hours. The solution was diluted with ethyl acetate (20 mL) and washed with water (3×10 mL), dried and the product was purified by column chromatography to give N-(5-(2,4-bis(benzyloxy)-5-isopropylphenyl)-4-(1-methyl-1H-indol-5-yl)-4H-1,2,4-triazol-3-yl)acetamide.

reactant | [5-(5-Isopropyl-2,4-dibenzyloxy-phenyl)-4-(1-methyl-1H-indol-5-yl)-4H-[1,2,4]triazol-3-yl]-phenyl-amine | 0.25 mmol, 136 mg | C(C)(C)C=1C(=CC(=C(C1)C=1N(C(=NN1)NC1=CC=CC=C1)C=1C=C2C=CN(C2=CC1)C)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C40H37N5O2
reactant | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
reactant | acetylimidazole | 90 mg, 2 eq. | C(C)(=O)C=1NC=CN1 | C5H6N2O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | N-(5-(2,4-bis(benzyloxy)-5-isopropylphenyl)-4-(1-methyl-1H-indol-5-yl)-4H-1,2,4-triazol-3-yl)acetamide | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C(C)C)C=1N(C(=NN1)NC(C)=O)C=1C=C2C=CN(C2=CC1)C | C36H35N5O3
